US04536505
A solution of 5.0 g of 2-carboethoxy-N-(3-pyridyl)indole in 75 ml of dry ether is cooled to 5° and 0.7 g of lithium aluminum hydride is added in portions. Cooling is suspended and the reaction mixture is stirred at room temperature under nitrogen for 18 hours and re-cooled to 5°. Sequential addition of 0.7 ml of water, 0.7 ml of 15% sodium hydroxide and 2.1 ml of water produces a fine precipitate which is removed by filtration through celite. The filtrate is dried over sodium sulfate and evaporated to yield crude 2-hydroxymethyl-N-(3-pyridyl)indole which is used without further purification; Rf (9:1 toluene:methanol, silica gel)=0.2.

reactant | 2-carboethoxy-N-(3-pyridyl)indole | 5.0 g | C(=O)(OCC)C=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C16H14N2O2
reactant | lithium aluminum hydride | 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.7 ml | O | H2O
reactant | sodium hydroxide | 0.7 ml | [OH-].[Na+]
reactant | water | 2.1 ml | O | H2O
solvent | ether | 75 ml | CCOCC | C4H10O
product | 2-hydroxymethyl-N-(3-pyridyl)indole | OCC=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C14H12N2O
